US07553848B2
6-Bromo-naphthalene-2-carboxylic acid (2-amino-benzothiazol-4-yl)-amide.
This material was prepared analogous to the procedure described for Example 1(b). 6-Bromo-naphthalene-2-carbonyl chloride, Example 1(a), (127 mg, 0.47 mmol) reacted with benzothiazole-2,4-diamine (77 mg, 0.47 mmol, prepared according to the procedure described in WO03099284) to give the title compound as an amorphous solid. MS (ESI, pos. ion.) m/z: 400 (M+1).

reactant | 6-Bromo-naphthalene-2-carbonyl chloride | BrC=1C=C2C=CC(=CC2=CC1)C(=O)Cl | C11H6BrClO
reactant | benzothiazole-2,4-diamine | S1C(=NC=2C1=CC=CC2N)N | C7H7N3S
product | 6-Bromo-naphthalene-2-carboxylic acid (2-amino-benzothiazol-4-yl)-amide | NC=1SC2=C(N1)C(=CC=C2)NC(=O)C2=CC1=CC=C(C=C1C=C2)Br | C18H12BrN3OS
